US07253192B2
A] 2-Methyl-2-{2-methyl-4-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester
To an ice cold solution of 50 mg (0.21 mmol) 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590), 48 mg (0.21 mmol) 5-(3-trifluoromethoxy-phenyl)-pent-4-yn-1-ol (example 3C]) and 70 μl (0.25 mmol) tributylphosphine (50 19 μmol) in 5 ml tetrahydrofuran were added 43 mg (0.25 mmol) N,N,N′,N′-tetramethyl azodicarboxamide. The cooling bath was removed and stirring continued for 14 h. The mixture was filtered over celite and the solvent removed under reduced pressure to give a yellow oil which was purified by column chromatography (silica gel, heptane/AcOEt) to obtain 34 mg (80 μmol, 36%) of the title compound as colorless oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.21 mmol, 50 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 5-(3-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | 0.21 mmol, 48 mg | FC(OC=1C=C(C=CC1)C#CCCCO)(F)F | C12H11F3O2
reactant | tributylphosphine | 0.25 mmol, 70 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | 0.25 mmol, 43 mg | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-Methyl-2-{2-methyl-4-[5-(3-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester | 80 μmol, 34 mg, 36% | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCCC#CC1=CC(=CC=C1)OC(F)(F)F)C)C)=O | C25H27F3O5
